US09402841B2
Step B: 1-(methoxycarbonyl)isoquinoline 2-oxide
To a suspension of methyl isoquinoline-1-carboxylate (11.2 g, 59.8 mmol) in DCM (150 mL) was added 3-chloroperoxybenzoic acid (15.5 g, 89.7 mmol) at 0° C. The mixture was warmed to RT and was stirred at RT for 24 hours. The reaction was quenched with saturated aqueous NaHCO3 and the mixture was extracted with DCM. The organic layer was separated and dried over Na2SO4, and the solvent was evaporated under reduced pressure. The crude product was purified by silica gel chromatography eluting with petroleum ether and EtOAc (1:1) to give the title compound as a white solid (9.5 g, 78%). ESI-MS m/z [M+H]+ 204.

reactant | methyl isoquinoline-1-carboxylate | 59.8 mmol, 11.2 g | C1(=NC=CC2=CC=CC=C12)C(=O)OC | C11H9NO2
reactant | 3-chloroperoxybenzoic acid | 89.7 mmol, 15.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-(methoxycarbonyl)isoquinoline 2-oxide | 9.5 g, 78% | COC(=O)C1=[N+](C=CC2=CC=CC=C12)[O-] | C11H9NO3
